US07589206B2
f) Ethyl 4-chloro-1H-pyrrolo[3,2-c]pyridine-7-carboxylate
A solution of ethyl 4-chloro-1-{[4-(methyloxy)phenyl]methyl}-1H-pyrrolo[3,2-c]pyridine-7-carboxylate (2.00 g) in TFA (30 ml), anisole (1.84 ml), and sulphuric acid (15 ml) was stirred at room temperature for 30 minutes. The solution was added to an aqueous saturated sodium bicarbonate solution at 0° C. and extracted with ethyl acetate. The aqueous layer was separated and extracted three times with ethyl acetate. The combined organic layers were washed with brine, dried (MgSO4), filtered and evaporated to afford the title compound as a brown solid (0.49 g).

reactant | ethyl 4-chloro-1-{[4-(methyloxy)phenyl]methyl}-1H-pyrrolo[3,2-c]pyridine-7-carboxylate | 2.00 g | ClC1=NC=C(C2=C1C=CN2CC2=CC=C(C=C2)OC)C(=O)OCC | C18H17ClN2O3
reactant | sulphuric acid | 15 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | TFA | 30 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | anisole | 1.84 ml | C1(=CC=CC=C1)OC | C7H8O
product | Ethyl 4-chloro-1H-pyrrolo[3,2-c]pyridine-7-carboxylate | 0.49 g | ClC1=NC=C(C2=C1C=CN2)C(=O)OCC | C10H9ClN2O2
